US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.5 g) and [(4-bromophenyl)methyl](4-isopropylphenyl)amine (2.21 g) as starting materials, N-[(4-bromophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.526 g) was obtained. melting point: 85° C.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.5 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | [(4-bromophenyl)methyl](4-isopropylphenyl)amine | 2.21 g | BrC1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C | C16H18BrN
product | N-[(4-bromophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.526 g | BrC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C28H30BrNO2
